US09359329B2
A mixture of 4.5 g (14.22 mmol) of 2-[2-(diphenylmethylidene)hydrazino]-N,N-dimethylpyridin-4-amine in 300 mL of toluene and 80 mL of aqueous 37% hydrochloric acid is heated for 4 hours at 110° C. After cooling to room temperature, the reaction medium is extracted with toluene (3×300 mL). The aqueous phase is diluted with 200 mL of water, neutralized at 0° C. by adding 12N sodium hydroxide solution, and then extracted with DCM (3×150 mL). The organic phases are combined, washed with brine (300 mL) and then dried over Na2SO4, filtered and concentrated under reduced pressure. 1.87 g of 2-hydrazino-N,N-dimethylpyridin-4-amine are obtained in the form of a brown solid, which is used without further purification in the following step.

reactant | 2-[2-(diphenylmethylidene)hydrazino]-N,N-dimethylpyridin-4-amine | 14.22 mmol, 4.5 g | C1(=CC=CC=C1)C(=NNC1=NC=CC(=C1)N(C)C)C1=CC=CC=C1 | C20H20N4
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2-hydrazino-N,N-dimethylpyridin-4-amine | 1.87 g, Yield=87% | N(N)C1=NC=CC(=C1)N(C)C | C7H12N4
